US06953793B2
B. 4-(6-Dimethylamino-3-nitro-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester.
To a stirring solution of 6 g (0.016 mol) of 4-(6-chloro-3-nitro-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester in MeOH/CH2Cl2 (84 mL/15 mL) was added 2.2 g (0.05 mol) of dimethylamine in THF (25 mL). The reaction mixture was stirred at room temperature for 16 h, and was then concentrated. The crude product was then dissolved in CH2Cl2 (400 mL) and washed with saturated NaHCO3 (2×200 mL). The washes were combined and extracted with EtOAc (100 mL). The combined organic layers were dried over Na2SO4 and concentrated to afford 6.1 g (99%) of the desired product as a bright yellow solid. MS (electrospray): exact mass calculated for C17H27N5O4, 365.21; m/z found, 388.19 [M+Na]+. 1H NMR (400 MHz, CDCl3): 8.74 (d, J=7.07 Hz, 1H), 8.18 (d, J=9.4 Hz, 1H), 5.97 (d, J=7.3 Hz, 1H), 4.28-4.16 (m, 1H), 4.07-3.93 (m, 2H), 3.17 (s, 6H), 3.01 (t, J=11.9 Hz, 2H), 2.05 (dd, J=12.4 Hz and 3.03 Hz, 2H), 1.60-1.50 (m, 2H), 1.47 (s, 9H).

reactant | 4-(6-chloro-3-nitro-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.016 mol, 6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC=C1[N+](=O)[O-])Cl | C15H21ClN4O4
reactant | dimethylamine | 0.05 mol, 2.2 g | CNC | C2H7N
solvent | MeOH CH2Cl2 | 84 mL | CO.C(Cl)Cl
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-(6-Dimethylamino-3-nitro-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 6.1 g, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC=C1[N+](=O)[O-])N(C)C | C17H27N5O4
